US04200641
A mixture of 20 parts of 2-cyclohexyl-1H-benzimidazole, 2 parts of N,N,N-triethylbenzenemethanaminium chloride, 225 parts of a sodium hydroxide solution 50% and 140 parts of tetrahydrofuran is stirred and heated to about 40° C. Then there are added 31.5 parts of 1-bromo-3-chloropropane and stirring is continued for 15 minutes at 60° C. The reaction mixture is cooled, methylbenzene is added and the layers are separated. The aqueous phase is extracted with methylbenzene. The combined methylbenzene-phases are washed with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 1-(3-chloropropyl)-2-cyclohexyl-1H-benzimidazole as an oily residue.

reactant | 2-cyclohexyl-1H-benzimidazole | C1(CCCCC1)C1=NC2=C(N1)C=CC=C2 | C13H16N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
catalyst | N,N,N-triethylbenzenemethanaminium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | 1-(3-chloropropyl)-2-cyclohexyl-1H-benzimidazole | ClCCCN1C(=NC2=C1C=CC=C2)C2CCCCC2 | C16H21ClN2
